US09120749B2
tert-Butyl 4-{5-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]pyridin-2-yl}piperazine-1-carboxylate
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (225 mg, 0.724 mmol) was reacted with tert-butyl 4-(5-aminopyridin-2-yl)piperazine-1-carboxylate (300 mg, 1.09 mmol) to afford the desired product (320 mg, 80%) as an orange solid: ESI MS m/z 552 [C27H30BrN5O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.724 mmol, 225 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 4-(5-aminopyridin-2-yl)piperazine-1-carboxylate | 1.09 mmol, 300 mg | NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H22N4O2
product | tert-Butyl 4-{5-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]pyridin-2-yl}piperazine-1-carboxylate | 320 mg, 80% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C27H30BrN5O3
